US07572820B2
E. 4-Chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole-5-carbonitrile
5-Bromo-4-chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole (0.036 g, 0.106 mmol) and CuCN (0.020 g, 0.222 mmol) were combined in NMP (3 mL) and heated to 220° C. for 20 min in a microwave. The cooled mixture was partitioned between Et2O and water, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification (SiO2, EtOAc/hexanes) afforded the title compound (0.015 g): 1NMR (400 MHz, CDCl3) δ7.56 (d, J=8.4 Hz, 1H), 7.34 (d, J=8.4 Hz, 1H), 4.68 (q, J=8.2 Hz, 2H), 2.96 (q, J=7.4 Hz, 2H), 1.45 (t, J=7.4 Hz, 3H); MS (ESI) m/z 288 (M+1).

reactant | 5-Bromo-4-chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole | 0.106 mmol, 0.036 g | BrC1=C(C2=C(N(C(=N2)CC)CC(F)(F)F)C=C1)Cl | C11H9BrClF3N2
reactant | CuCN | 0.222 mmol, 0.020 g | C(#N)[Cu]
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 4-Chloro-2-ethyl-1-(2,2,2-trifluoroethyl)-1H-benzimidazole-5-carbonitrile | 0.015 g | ClC1=C(C=CC=2N(C(=NC21)CC)CC(F)(F)F)C#N | C12H9ClF3N3
